US04254260
A mixture of 2-(2-aminothiazol-4-ylmethyl)isothiourea (1.57 g.) and 1 N sodium hydroxide (24 ml.) was stirred for 15 minutes at room temperature, and then the mixture was adjusted to pH 9 with 1 N hydrochloric acid (12 ml.). Thus obtained solution containing 2-aminothiazol-4-ylmethanethiol was dropwise added to a mixture of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-bromoacetamido-3-cephem-4-carboxylic acid (2.16 g.), sodium bicarbonate (0.67 g.), water (33 ml.) and ethanol (33 ml.) over 15 minutes at room temperature with stirring. The mixture was stirred for 1 hour at room temperature, and it was adjusted to pH 4 with 1 N hydrochloric acid. The mixture was allowed to stand for overnight in a refrigerator, and the precipitates were collected by filtration, washed with a small amount of water and then dried to give powder of 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-aminothiazol-4-yl)methylthioacetamido-3-cephem-4-carboxylic acid (0.7 g.), mp 180° to 250° C. (dec.)

reactant | 2-(2-aminothiazol-4-ylmethyl)isothiourea | 1.57 g | NC=1SC=C(N1)CSC(N)=N | C5H8N4S2
reactant | sodium hydroxide | 1 N, 24 ml | [OH-].[Na+]
reactant | hydrochloric acid | 1 N, 12 ml | Cl | ClH
reactant | 2-aminothiazol-4-ylmethanethiol | NC=1SC=C(N1)CS | C4H6N2S2
reactant | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-bromoacetamido-3-cephem-4-carboxylic acid | 2.16 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CBr)=O)=O | C12H13BrN6O4S2
reactant | sodium bicarbonate | 0.67 g | C([O-])(O)=O.[Na+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | ethanol | 33 ml | C(C)O | C2H6O
solvent | water | 33 ml | O | H2O
product | 3-(1-methyl-1H-tetrazol-5-yl)thiomethyl-7-(2-aminothiazol-4-yl)methylthioacetamido-3-cephem-4-carboxylic acid | 0.7 g | CN1N=NN=C1SCC=1CS[C@H]2N(C1C(=O)O)C(C2NC(CCC=2N=C(SC2)N)=S)=O | C16H18N8O3S4
